US09079866B2
N-(tert-butyl)-3′-fluoro-4′-(3-formyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-[1,1′-biphenyl]-2-sulfonamide
The title compound was prepared using analogous conditions to those described in Example 88 using 5-bromo-1H-pyrrolo[2,3-b]pyridine-3-carbaldehyde and N-(tert-butyl)-3′-fluoro-4′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-[1,1′-biphenyl]-2-sulfonamide. MS (ESI): mass calcd. for C24H22FN3O3S, 451.14; m/z found, 452.2 [M+H]+.

reactant | 5-bromo-1H-pyrrolo[2,3-b]pyridine-3-carbaldehyde | BrC=1C=C2C(=NC1)NC=C2C=O | C8H5BrN2O
reactant | N-(tert-butyl)-3′-fluoro-4′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-[1,1′-biphenyl]-2-sulfonamide | C(C)(C)(C)NS(=O)(=O)C=1C(=CC=CC1)C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C22H29BFNO4S
product | N-(tert-butyl)-3′-fluoro-4′-(3-formyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-[1,1′-biphenyl]-2-sulfonamide | C(C)(C)(C)NS(=O)(=O)C=1C(=CC=CC1)C1=CC(=C(C=C1)C=1C=C2C(=NC1)NC=C2C=O)F | C24H22FN3O3S
